US06596738B1
To a solution of 1-[(R)-4-(6-Benzyloxyindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide (975 mg, 1.88 mmol) in cyclohexene (10 ml) and ethanol (20 ml) was added 20% palladium hydroxide on carbon (488 mg). The resulting mixture was stirred at reflux for 1 hour. After cooling to room temperature, the mixture was filtered through Celite and washed with ethanol. The filtrate was concentrated in vacuo and then the residue was purified by silica gel (20 g) chromatography eluted with chloroform/methanol (100:1 to 50:1) to give 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-hydroxyindol-1-yl)-2-butyl]imidazole-4-carboxamide (772 mg, 95.8%) as a colorless solid.

reactant | 1-[(R)-4-(6-Benzyloxyindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide | 1.88 mmol, 975 mg | C(C1=CC=CC=C1)OC1=CC=C2C=CN(C2=C1)CC[C@H](CO[Si](C)(C)C(C)(C)C)N1C=NC(=C1)C(=O)N | C29H38N4O3Si
solvent | cyclohexene | 10 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 488 mg | [OH-].[OH-].[Pd+2]
product | 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-hydroxyindol-1-yl)-2-butyl]imidazole-4-carboxamide | 772 mg, 95.8% | [Si](C)(C)(C(C)(C)C)OC[C@@H](CCN1C=CC2=CC=C(C=C12)O)N1C=NC(=C1)C(=O)N | C22H32N4O3Si
